US09388170B2
(S)—N-(3-ethynylphenyl)-6-nitro-7-(tetrahydrofuran-3-yloxy)quinazolin-4-amine (4 g, 0.011 mol) and ammonia hydrochloride (2.4 g, 0.045 mol) was mixed in a solution of 150 mL methanol, 75 mL H2O, 50 ml EA, and then was heated to 70° C. Fe (4.8 g, 0.085 mol) was added and the reaction mixture was heated to reflux for 4 hours. The resulting reaction solution was filtered and concentrated under reduced pressure to remove most of solvent. The residue was diluted in 100 mL H2O, extracted with ethyl acetate (3×100 mL), the organic layers were concentrated to give (S)—N4-(3-ethynylphenyl)-7-(tetrahydrofuran-3-yloxy)quinazoline-4,6-diamine as grey solid 1.8 g (48.9% yield).

reactant | (S)—N-(3-ethynylphenyl)-6-nitro-7-(tetrahydrofuran-3-yloxy)quinazolin-4-amine | 0.011 mol, 4 g | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])O[C@@H]1COCC1 | C20H16N4O4
reactant | ammonia hydrochloride | 0.045 mol, 2.4 g | Cl.N
reactant | methanol | 150 mL | CO | CH4O
reactant | H2O | 75 mL | O | H2O
catalyst | Fe | 0.085 mol, 4.8 g | [Fe] | Fe
solvent | EA | 50 ml | CC(OCC)=O | C4H8O2
product | (S)—N4-(3-ethynylphenyl)-7-(tetrahydrofuran-3-yloxy)quinazoline-4,6-diamine | 1.8 g, 48.9% yield | C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)N)O[C@@H]1COCC1 | C20H18N4O2
